US08030322B2
Preparation 12: 1-(cyanomethyl)-5-fluoro-2,3-dihydro-1H-indene-1-carbonitrile (Prep12)
To a solution of (E)-ethyl 2-cyano-2-(5-fluoro-2,3-dihydro-1H-inden-1-ylidene)acetate (Prep11, 100 g, 0.408 mol) in ethanol (800 ml) a solution of KCN (67 g, 1.02 mol) in water (240 ml) was added, and warmed to 65° C. The mixture was stirred for 24 h.

reactant | (E)-ethyl 2-cyano-2-(5-fluoro-2,3-dihydro-1H-inden-1-ylidene)acetate | 0.408 mol, 100 g | C(#N)\C(\C(=O)OCC)=C/1\CCC2=CC(=CC=C12)F | C14H12FNO2
reactant | KCN | 1.02 mol, 67 g | [C-]#N.[K+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
solvent | water | 240 ml | O | H2O
product | 1-(cyanomethyl)-5-fluoro-2,3-dihydro-1H-indene-1-carbonitrile | C(#N)CC1(CCC2=CC(=CC=C12)F)C#N | C12H9FN2
